US08030500B2
N-((5-Chloro-2-cyano-3-fluorophenyl)(3-methoxyphenyl)methylene)-2-methylpropane-2-sulfinamide
4-Chloro-2-fluoro-6-(3-methoxybenzoyl)benzonitrile (2.56 g, 8.84 mmol), 2-methyl-2-propanesulfinamide (1.392 g, 11.49 mmol) and titanium(IV) ethoxide (4.62 mL, 22.09 mmol) were dissolved in THF (30 mL) and stirred at 75° C. over weekend. When cooled to rt, the mixture was diluted with DCM (25 mL). Saturated aqueous NaHCO3 (3 mL) was added followed by silica and the mixture concentrated under reduced pressure until a free flowing powder was obtained. Purification on a silica gel column (0-40% EtOAc in heptane as eluent) gave 2.04 g (59% yield) of the title compound.

reactant | 4-Chloro-2-fluoro-6-(3-methoxybenzoyl)benzonitrile | 8.84 mmol, 2.56 g | ClC1=CC(=C(C#N)C(=C1)C(C1=CC(=CC=C1)OC)=O)F | C15H9ClFNO2
reactant | 2-methyl-2-propanesulfinamide | 11.49 mmol, 1.392 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium(IV) ethoxide | 22.09 mmol, 4.62 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | N-((5-Chloro-2-cyano-3-fluorophenyl)(3-methoxyphenyl)methylene)-2-methylpropane-2-sulfinamide | 2.04 g, 59% yield | ClC=1C=C(C(=C(C1)C(=NS(=O)C(C)(C)C)C1=CC(=CC=C1)OC)C#N)F | C19H18ClFN2O2S
